US07968573B2
A mixture of 2.0 g of 2-pyrrole carbaldehyde, 3.0 g of 3,4-dichloropyridine, 8.0 g of cesium carbonate and 30 ml of N-methylpyrrolidone was stirred at 120° C. for 25 hours. The reaction mixture was allowed to cool room temperature, and water was poured into the mixture. The mixture was extracted with ethyl acetate two times. The organic layers were combined, washed successively with water and an aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel chromatography to obtain 2.95 g of 1-(3-chloro-4-pyridinyl)-1H-pyrrole-2-carbaldehyde of the formula:

reactant | 2-pyrrole carbaldehyde | 2.0 g | N1C(=CC=C1)C=O | C5H5NO
reactant | 3,4-dichloropyridine | 3.0 g | ClC=1C=NC=CC1Cl | C5H3Cl2N
reactant | cesium carbonate | 8.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-methylpyrrolidone | 30 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 1-(3-chloro-4-pyridinyl)-1H-pyrrole-2-carbaldehyde | 2.95 g | ClC=1C=NC=CC1N1C(=CC=C1)C=O | C10H7ClN2O
